### PR TITLE
[Merged by Bors] - feat: asymptotic cone of a set

### PR DESCRIPTION
**Pull request by gasparattila**
This PR defines the asymptotic cone of a set in a normed affine space and proves its main properties. This is partial progress towards showing that an unbounded finite-dimensional convex set contains a ray.

---

- [x] depends on: #27221

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 1]
```diff
@@ -0,0 +1,428 @@
...
+* `isBounded_iff_asymptoticCone_subset_singleton`: in finite dimensions, the asymptotic cone is
+trivial if and only if the set is bounded.
+-/
+
+open scoped Pointwise Topology
+open Filter
+
+section General
+
+variable
```
Comment (AntoineChambert-Loir) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Do you really need the `NormedSpace` and `MetricSpace` instances? Couldn't it work with continuity of `smul` only?

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 2]
```diff
@@ -0,0 +1,428 @@
...
+  {k V P : Type*}
+  [NormedField k] [LinearOrder k] [OrderTopology k] [IsStrictOrderedRing k]
+  [NormedAddCommGroup V] [NormedSpace k V] [MetricSpace P] [NormedAddTorsor V P]
+
+variable (k P) in
+/-- In a normed affine space `P` over `k`, `asymptoticNhds k P v` is the filter of neighborhoods at
+infinity in the direction of `v`. In a normed vector space, this is the filter
+`Filter.atTop • 𝓝 v`. To support affine spaces, the actual definition is different and should be
+considered an implementation detail. -/
+@[irreducible]
```
Comment (AntoineChambert-Loir) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: If you write it as `irreducible`, it might make sense to add a lemma that unfolds it, and eventually a `mem_asymptoticNhds_iff`.

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 1 above)
Comment (gasparattila) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Mathlib currently does not have the notion of a topological affine space, so we need to use `NormedAddTorsor`. But the proofs don't use norms, so that they can be easily generalized later.

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 2 above)
Comment (gasparattila) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: The intention is that only `asymptoticNhds_eq_smul` and `asymptoticNhds_eq_smul_vadd` should be used for unfolding the definition. I could expand the docstring to clarify this. The reason for the different definition is that it cannot depend on some base point in an affine space.

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Isn't "topological add torsor" exactly `ContinuousVAdd`?

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 3]
```diff
@@ -0,0 +1,428 @@
...
+import Mathlib.Analysis.Normed.Module.FiniteDimension
+
+/-!
+# Asymptotic cone of a set
+
+This file defines the asymptotic cone of a set in a normed affine space. The asymptotic cone of a
+set $A$ is usually defined as the set of points $v$ for which there exist sequences $t_n > 0$ and
+$x_n \in A$ such that $t_n \to 0$ and $t_n x_n \to v$. We take a different approach here using
+filters: we define the asymptotic cone of `s` as the set of vectors `v` such that
+`∃ᶠ p in Filter.atTop • 𝓝 v, p ∈ s` holds.
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: The second sentence onwards belongs in its own `## Implementation notes` section.

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 4]
```diff
@@ -0,0 +1,428 @@
...
+  [NormedField k] [LinearOrder k] [OrderTopology k] [IsStrictOrderedRing k]
+  [NormedAddCommGroup V] [NormedSpace k V] [MetricSpace P] [NormedAddTorsor V P]
+
+variable (k P) in
+/-- In a normed affine space `P` over `k`, `asymptoticNhds k P v` is the filter of neighborhoods at
+infinity in the direction of `v`. In a normed vector space, this is the filter
+`Filter.atTop • 𝓝 v`. To support affine spaces, the actual definition is different and should be
+considered an implementation detail. -/
+@[irreducible]
+def asymptoticNhds (v : V) : Filter P := ⨆ p, atTop (α := k) • 𝓝 v +ᵥ pure p
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: `_root_.asymptoticNhds` is too generic as a name. Can you either namespace it (to `Convex` or `AffineSpace`, for example) or find a less ambiguous name?

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 5]
```diff
@@ -0,0 +1,428 @@
...
+      simp [h]
+    rw [map_congr this, ← map_map]
+    apply map_mono
+    have : Tendsto (fun x : k × V => (x.1, x.2 + x.1⁻¹ • u)) (atTop ×ˢ 𝓝 v) _ :=
+      tendsto_fst.prodMk <| tendsto_snd.add <| tendsto_fst.inv_tendsto_atTop.smul_const u
+    simpa
+  · apply (le_iSup _ 0).trans'
+    simp
+
+omit [OrderTopology k] [IsStrictOrderedRing k] in
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Can you declare those two variables later, instead of constantly omitting them?

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 6]
```diff
@@ -0,0 +1,428 @@
...
+
+@[simp]
+theorem asymptoticNhds_zero : asymptoticNhds k P (0 : V) = ⊤ := by
+  have ⟨p⟩ : Nonempty P := inferInstance
+  rw [← asymptoticNhds_vadd_pure 0 p, asymptoticNhds_zero', vadd_pure]
+  exact (Equiv.vaddConst p).surjective.filter_map_top
+
+theorem Filter.Tendsto.atTop_smul_nhds {α} {f : α → k} {g : α → V} {l : Filter α} {v : V}
+    (hf : Tendsto f l atTop) (hg : Tendsto g l (𝓝 v)) :
+    Tendsto (fun x => f x • g x) l (asymptoticNhds k V v) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Do you not think the lemma name should mention `asymptoticNhds` somewhere?

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 7]
```diff
@@ -0,0 +1,428 @@
...
+
+omit [OrderTopology k] [IsStrictOrderedRing k] in
+theorem Filter.Tendsto.const_vadd_asymptoticNhds {α} {f : α → P} {l : Filter α} {v : V} (u : V)
+    (hf : Tendsto f l (asymptoticNhds k P v)) :
+    Tendsto (fun x => u +ᵥ f x) l (asymptoticNhds k P v) := by
+  rw [← vadd_asymptoticNhds u, ← Filter.map_vadd]
+  exact tendsto_map.comp hf
+
+theorem asymptoticNhds_smul (v : V) {c : k} (hc : 0 < c) :
+    asymptoticNhds k P (c • v) = asymptoticNhds k P v := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Should this be simp?

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 8]
```diff
@@ -0,0 +1,428 @@
...
+  have ⟨p⟩ : Nonempty P := inferInstance
+  simp_rw [asymptoticNhds_eq_smul_vadd _ p,
+    ← show map (c • ·) (𝓝 v) = 𝓝 (c • v) from
+      (Homeomorph.smulOfNeZero c hc.ne').map_nhds_eq v,
+    ← map₂_smul, map₂_map_right, smul_smul, ← map₂_map_left,
+    show map (· * c) atTop = atTop from (OrderIso.mulRight₀ _ hc).map_atTop]
+
+theorem nhds_bind_asymptoticNhds {v : V} :
+    (𝓝 v).bind (asymptoticNhds k P) = asymptoticNhds k P v := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
@[simp] theorem nhds_bind_asymptoticNhds (v : V) :
    (𝓝 v).bind (asymptoticNhds k P) = asymptoticNhds k P v := by
```

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 9]
```diff
@@ -0,0 +1,428 @@
...
+    nth_rw 2 [← nhds_bind_nhds]
+    intro s ⟨t₁, ht₁, t₂, ht₂, hs⟩
+    rw [mem_bind] at ht₂ ⊢
+    obtain ⟨t₃, ht₃, ht₂⟩ := ht₂
+    exact ⟨t₃, ht₃, fun u hu => ⟨t₁, ht₁, t₂, ht₂ u hu, hs⟩⟩
+  · rw [← pure_bind v (asymptoticNhds k P)]
+    exact bind_mono (pure_le_nhds v) .rfl
+
+theorem asymptoticNhds_bind_nhds {v : V} :
+    (asymptoticNhds k P v).bind 𝓝 = asymptoticNhds k P v := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
@[simp] theorem asymptoticNhds_bind_nhds (v : V) :
    (asymptoticNhds k P v).bind 𝓝 = asymptoticNhds k P v := by
```

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 10]
```diff
@@ -0,0 +1,428 @@
...
+  fun _ h' => h'.mono h
+
+omit [OrderTopology k] [IsStrictOrderedRing k] in
+theorem asymptoticCone_union {s t : Set P} :
+    asymptoticCone k (s ∪ t) = asymptoticCone k s ∪ asymptoticCone k t := by
+  ext
+  simp only [Set.mem_union, mem_asymptoticCone_iff, Filter.frequently_or_distrib]
+
+omit [OrderTopology k] [IsStrictOrderedRing k] in
+theorem Set.Finite.asymptoticCone_biUnion {ι : Type*} {s : Set ι} (hs : s.Finite) (f : ι → Set P) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: The dot notation doesn't help disambiguate anything here, so I would drop it
```suggestion
theorem asymptoticCone_biUnion {ι : Type*} {s : Set ι} (hs : s.Finite) (f : ι → Set P) :
```
same below

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 11]
```diff
@@ -0,0 +1,428 @@
...
+
+omit [OrderTopology k] [IsStrictOrderedRing k] in
+theorem asymptoticCone_iUnion_of_finite {ι : Type*} [Finite ι] (f : ι → Set P) :
+    asymptoticCone k (⋃ i, f i) = ⋃ i, asymptoticCone k (f i) := by
+  rw [← Set.sUnion_range, (Set.finite_range _).asymptoticCone_sUnion, Set.biUnion_range]
+
+theorem zero_mem_asymptoticCone {s : Set P} (hs : s.Nonempty) : 0 ∈ asymptoticCone k s := by
+  simpa [mem_asymptoticCone_iff]
+
+theorem asymptoticCone_nonempty_iff {s : Set P} : (asymptoticCone k s).Nonempty ↔ s.Nonempty := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
theorem asymptoticCone_nonempty {s : Set P} : (asymptoticCone k s).Nonempty ↔ s.Nonempty := by
```
is probably enough

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 12]
```diff
@@ -0,0 +1,428 @@
...
+  ext v
+  rw [mem_closure_iff_frequently, ← map_snd_prod (atTop (α := k)) (𝓝 v), frequently_map,
+    mem_asymptoticCone_iff, asymptoticNhds_eq_smul_vadd v p, vadd_pure, frequently_map, ← map₂_smul,
+    ← map_prod_eq_map₂, frequently_map]
+  apply frequently_congr
+  filter_upwards [tendsto_fst.eventually (eventually_ne_atTop 0)] with ⟨c, u⟩ hc
+  simp_rw [SetLike.mem_coe, s.vadd_mem_iff_mem_direction _ hp, Submodule.smul_mem_iff _ hc]
+
+theorem asymptoticCone_submodule {s : Submodule k V} :
+    asymptoticCone k (s : Set V) = closure s := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
@[simp] theorem asymptoticCone_submodule (s : Submodule k V) :
    asymptoticCone k (s : Set V) = closure s := by
```
and can you generalise this to `ConvexConeClass`?

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 13]
```diff
@@ -0,0 +1,428 @@
...
+
+theorem isClosed_asymptoticCone {s : Set P} : IsClosed (asymptoticCone k s) := by
+  have ⟨p⟩ : Nonempty P := inferInstance
+  rw [isClosed_iff_frequently]
+  intro v h
+  simp_rw [mem_asymptoticCone_iff, ← frequently_bind, nhds_bind_asymptoticNhds] at h
+  exact h
+
+theorem asymptoticCone_asymptoticCone {s : Set P} :
+    asymptoticCone k (asymptoticCone k s) = asymptoticCone k s := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
@[simp] theorem asymptoticCone_asymptoticCone (s : Set P) :
    asymptoticCone k (asymptoticCone k s) = asymptoticCone k s := by
```

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 14]
```diff
@@ -0,0 +1,428 @@
...
+  rw [asymptoticNhds_eq_smul, eventually_bind, ← map₂_smul, ← map_prod_eq_map₂, eventually_map,
+    ← nhds_bind_asymptoticNhds, eventually_bind]
+  nth_rw 2 [← map_snd_prod (atTop (α := k)) (𝓝 v)]
+  rw [eventually_map]
+  apply eventually_congr
+  filter_upwards [tendsto_fst.eventually (eventually_gt_atTop 0)] with ⟨c, u⟩ (hc : 0 < c)
+  simp only [asymptoticNhds_smul _ hc]
+
+variable (k) in
+
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
variable (k) in
```

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 15]
```diff
@@ -0,0 +1,428 @@
...
+/-- The set of directions `v` for which the set has points arbitrarily far in directions near `v`.
+-/
+def asymptoticCone (s : Set P) : Set V := {v | ∃ᶠ p in asymptoticNhds k P v, p ∈ s}
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Why not
```suggestion
def asymptoticCone (s : Set P) : ProperCone k V := {v | ∃ᶠ p in asymptoticNhds k P v, p ∈ s}
```

File: Mathlib/Order/Filter/Map.lean [hunk 16]
```diff
@@ -931,6 +937,12 @@ theorem eventually_bind {f : Filter α} {m : α → Filter β} {p : β → Prop}
     (∀ᶠ y in bind f m, p y) ↔ ∀ᶠ x in f, ∀ᶠ y in m x, p y :=
   Iff.rfl
 
+@[simp]
+theorem frequently_bind {f : Filter α} {m : α → Filter β} {p : β → Prop} :
+    (∃ᶠ y in bind f m, p y) ↔ ∃ᶠ x in f, ∃ᶠ y in m x, p y := by
+  rw [← not_iff_not]
+  simp only [not_frequently, eventually_bind]
```
Comment (YaelDillies) [inline Mathlib/Order/Filter/Map.lean:945]: Does this work?
```suggestion
    (∃ᶠ y in bind f m, p y) ↔ ∃ᶠ x in f, ∃ᶠ y in m x, p y := .rfl
```

File: Mathlib/Order/Filter/Map.lean [hunk 17]
```diff
@@ -149,6 +149,12 @@ theorem eventually_pure {a : α} {p : α → Prop} : (∀ᶠ x in pure a, p x) 
 theorem principal_singleton (a : α) : 𝓟 {a} = pure a :=
   Filter.ext fun s => by simp only [mem_pure, mem_principal, singleton_subset_iff]
 
+theorem principal_eq_biSup_pure {s : Set α} : 𝓟 s = ⨆ a ∈ s, pure a :=
+  Filter.ext fun s => by simp only [mem_iSup]; rfl
+
+theorem top_eq_iSup_pure : (⊤ : Filter α) = ⨆ a, pure a := by
```
Comment (YaelDillies) [inline Mathlib/Order/Filter/Map.lean]: I would turn this lemma around and make it simp

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 1 above)
Comment (gasparattila) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: No, for example, `ContinuousVAdd` always holds when the affine space has the anti-discrete topology. The continuity of `vsub` is also needed for some of the proofs.

Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Oh right, I see

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 7 above)
Comment (gasparattila) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: I didn't mark it `simp` because of the condition on `c`.

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 15 above)
Comment (gasparattila) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: The asymptotic cone isn't convex in general.

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 12 above)
Comment (gasparattila) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: I think this shouldn't be `simp`, because it causes non-confluence with `Submodule.inf_coe`.

There's currently no `ConvexConeClass`. Instead, I added a more general variant that can be used with `ConvexCone`.

File: Mathlib/Order/Filter/Map.lean (hunk 16 above)
Comment (gasparattila) [reply Mathlib/Order/Filter/Map.lean:945]: No, there's a double negation.

**Comment by gasparattila** [comment]
-awaiting-author

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: 😨 Oh, of course! Then I would like to know where the name "asymptotic cone" comes from

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: simp doesn't care ;-) It will still use it if you have `0 < c` or if it can derive it itself

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 18]
```diff
@@ -0,0 +1,443 @@
...
+    (𝓝 v).bind (asymptoticNhds k P) = asymptoticNhds k P v := by
+  apply le_antisymm
+  · have ⟨p⟩ : Nonempty P := inferInstance
+    eta_expand
+    simp_rw [asymptoticNhds_eq_smul_vadd _ p, vadd_pure]
+    nth_rw 2 [← nhds_bind_nhds]
+    intro s ⟨t₁, ht₁, t₂, ht₂, hs⟩
+    rw [mem_bind] at ht₂ ⊢
+    obtain ⟨t₃, ht₃, ht₂⟩ := ht₂
+    exact ⟨t₃, ht₃, fun u hu => ⟨t₁, ht₁, t₂, ht₂ u hu, hs⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Does this work?
```suggestion
    grind
```

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 19]
```diff
@@ -0,0 +1,443 @@
...
+
+theorem mem_asymptoticCone_iff {v : V} {s : Set P} :
+    v ∈ asymptoticCone k s ↔ ∃ᶠ p in asymptoticNhds k P v, p ∈ s :=
+  Iff.rfl
+
+@[simp]
+theorem asymptoticCone_empty : asymptoticCone k (∅ : Set P) = ∅ :=
+  Set.eq_empty_iff_forall_notMem.mpr fun _ => frequently_false _
+
+@[mono]
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
@[gcongr]
```
`mono` is deprecated

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 20]
```diff
@@ -0,0 +1,443 @@
...
+    asymptoticCone k (⋃ i ∈ s, f i) = ⋃ i ∈ s, asymptoticCone k (f i) :=
+  asymptoticCone_biUnion s.finite_toSet f
+
+theorem asymptoticCone_iUnion_of_finite {ι : Type*} [Finite ι] (f : ι → Set P) :
+    asymptoticCone k (⋃ i, f i) = ⋃ i, asymptoticCone k (f i) := by
+  rw [← Set.sUnion_range, asymptoticCone_sUnion (Set.finite_range f), Set.biUnion_range]
+
+variable [OrderTopology k] [IsStrictOrderedRing k]
+
+theorem zero_mem_asymptoticCone {s : Set P} (hs : s.Nonempty) : 0 ∈ asymptoticCone k s := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Can you make this into an iff?

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 21]
```diff
@@ -0,0 +1,443 @@
...
+  simpa [mem_asymptoticCone_iff]
+
+theorem asymptoticCone_nonempty {s : Set P} : (asymptoticCone k s).Nonempty ↔ s.Nonempty := by
+  refine ⟨Function.mtr ?_, fun h => ⟨0, zero_mem_asymptoticCone h⟩⟩
+  simp +contextual [Set.not_nonempty_iff_eq_empty]
+
+theorem smul_mem_asymptoticCone_iff {s : Set P} {c : k} {v : V} (hc : 0 < c) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
@[simp]
theorem smul_mem_asymptoticCone_iff {s : Set P} {c : k} {v : V} (hc : 0 < c) :
```

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 22]
```diff
@@ -0,0 +1,443 @@
...
+  ext v
+  simp_rw [← asymptoticCone_submodule, mem_asymptoticCone_iff, ← asymptoticNhds_vadd_pure v p,
+    vadd_pure, frequently_map, SetLike.mem_coe, s.vadd_mem_iff_mem_direction _ hp]
+
+@[simp]
+theorem asymptoticCone_univ : asymptoticCone k (Set.univ : Set P) = Set.univ := by
+  rw [← AffineSubspace.top_coe k, asymptoticCone_affineSubspace Set.univ_nonempty,
+    AffineSubspace.direction_top, Submodule.top_coe, closure_univ]
+
+theorem asymptoticCone_closure {s : Set P} : asymptoticCone k (closure s) = asymptoticCone k s := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
theorem asymptoticCone_closure (s : Set P) : asymptoticCone k (closure s) = asymptoticCone k s := by
```

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 23]
```diff
@@ -0,0 +1,443 @@
...
+    IsBounded s ↔ asymptoticCone ℝ s ⊆ {0} := by
+  refine ⟨asymptoticCone_subset_singleton_of_bounded, fun h => ?_⟩
+  simp_rw [isBounded_def, cobounded_eq_iSup_sphere_asymptoticNhds, mem_iSup]
+  intro v hv
+  by_contra h'
+  exact Metric.ne_of_mem_sphere hv one_ne_zero (h h')
+
+/-- In a finite dimensional normed affine space over `ℝ`, a set is unbounded if and only if its
+asymptotic cone contains a nonzero vector. -/
+theorem unbounded_iff_exists_ne_zero_mem_asymptoticCone {s : Set P} :
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
theorem not_bounded_iff_exists_ne_zero_mem_asymptoticCone {s : Set P} :
```

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 15 above)
Comment (gasparattila) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: I took the name from the [Wikipedia page for the recession cone](https://en.wikipedia.org/wiki/Recession_cone#Relation_to_asymptotic_cone). The book by Auslender and Teboulle referenced on Wikipedia also uses this name.

**Comment by gasparattila** [comment]
-awaiting-author

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean [hunk 24]
```diff
@@ -0,0 +1,444 @@
...
+theorem _root_.Filter.Tendsto.const_vadd_asymptoticNhds {f : α → P} {v : V} (u : V)
+    (hf : Tendsto f l (asymptoticNhds k P v)) :
+    Tendsto (fun x => u +ᵥ f x) l (asymptoticNhds k P v) := by
+  rw [← vadd_asymptoticNhds u, ← Filter.map_vadd]
+  exact tendsto_map.comp hf
+
+variable [OrderTopology k] [IsStrictOrderedRing k]
+
+theorem asymptoticNhds_eq_smul (v : V) : asymptoticNhds k V v = atTop (α := k) • 𝓝 v := by
+  unfold asymptoticNhds
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]:
```suggestion
```

File: Mathlib/Order/Filter/Map.lean [hunk 25]
```diff
@@ -149,6 +149,14 @@ theorem eventually_pure {a : α} {p : α → Prop} : (∀ᶠ x in pure a, p x) 
 theorem principal_singleton (a : α) : 𝓟 {a} = pure a :=
   Filter.ext fun s => by simp only [mem_pure, mem_principal, singleton_subset_iff]
 
+@[simp]
+theorem biSup_pure_eq_principal {s : Set α} : ⨆ a ∈ s, pure a = 𝓟 s :=
```
Comment (YaelDillies) [inline Mathlib/Order/Filter/Map.lean]:
```suggestion
theorem biSup_pure_eq_principal (s : Set α) : ⨆ a ∈ s, pure a = 𝓟 s :=
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean (hunk 24 above)
Comment (gasparattila) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: This is needed because `asymptoticNhds` is irreducible.

Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Affine/AsymptoticCone.lean]: Ah 💡

**Comment by gasparattila** [comment]
Now that #28493 has been merged, I weakened the assumptions to work with TVSs. It turned out that most proofs do not even need a topology on the affine space. I've also split the parts that need a norm into a new file. @YaelDillies could you take a look at these changes? I've made separate commits for the generalization and the splitting for easier reviewing.

**Review by YaelDillies — APPROVED** [review]
This split looks good, yes!

File: Mathlib/Order/Filter/Map.lean [hunk 26]
```diff
@@ -148,6 +148,14 @@ theorem eventually_pure {a : α} {p : α → Prop} : (∀ᶠ x in pure a, p x) 
 theorem principal_singleton (a : α) : 𝓟 {a} = pure a :=
   Filter.ext fun s => by simp only [mem_pure, mem_principal, singleton_subset_iff]
 
+@[simp]
+theorem biSup_pure_eq_principal (s : Set α) : ⨆ a ∈ s, pure a = 𝓟 s :=
+  Filter.ext fun s => by simp only [mem_iSup]; rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Filter/Map.lean]:
```suggestion
  Filter.ext fun s => by simp [Set.subset_def]
```

File: Mathlib/Topology/Algebra/AsymptoticCone.lean [hunk 27]
```diff
@@ -0,0 +1,380 @@
...
+    asymptoticNhds k P (c • v) = asymptoticNhds k P v := by
+  have ⟨p⟩ : Nonempty P := inferInstance
+  simp_rw [asymptoticNhds_eq_smul_vadd _ p,
+    ← show map (c • ·) (𝓝 v) = 𝓝 (c • v) from
+      (Homeomorph.smulOfNeZero c hc.ne').map_nhds_eq v,
+    ← map₂_smul, map₂_map_right, smul_smul, ← map₂_map_left,
+    show map (· * c) atTop = atTop from (OrderIso.mulRight₀ _ hc).map_atTop]
+
+@[simp]
+theorem nhds_bind_asymptoticNhds (v : V) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/Algebra/AsymptoticCone.lean:153]: I'm not sure if treating `bind` as an infix operator wrt the naming convention makes sense here

Comment (fpvandoorn) [reply Mathlib/Topology/Algebra/AsymptoticCone.lean:153]: It at least seems to follow [nhds_bind_nhds](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Neighborhoods.html#nhds_bind_nhds), so it seems fine to me.

File: Mathlib/Topology/Algebra/AsymptoticCone.lean [hunk 28]
```diff
@@ -0,0 +1,380 @@
...
+  [Field k] [LinearOrder k] [AddCommGroup V] [Module k V] [AddTorsor V P] [TopologicalSpace V]
+
+namespace AffineSpace
+
+variable (k P) in
+/-- In a topological affine space `P` over `k`, `AffineSpace.asymptoticNhds k P v` is the filter of
+neighborhoods at infinity in the direction of `v`. In a topological vector space, this is the filter
+`Filter.atTop • 𝓝 v`. To support affine spaces, the actual definition is different and should be
+considered an implementation detail. Use `AffineSpace.asymptoticNhds_eq_smul` or
+`AffineSpace.asymptoticNhds_eq_smul` for unfolding. -/
```
Comment (fpvandoorn) [inline Mathlib/Topology/Algebra/AsymptoticCone.lean]: Are these supposed to refer to two different lemmas?

File: Mathlib/Topology/Algebra/AsymptoticCone.lean [hunk 29]
```diff
@@ -0,0 +1,380 @@
...
+
+variable
+  {k V P : Type*}
+  [Field k] [LinearOrder k] [AddCommGroup V] [Module k V] [AddTorsor V P] [TopologicalSpace V]
+
+namespace AffineSpace
+
+variable (k P) in
+/-- In a topological affine space `P` over `k`, `AffineSpace.asymptoticNhds k P v` is the filter of
+neighborhoods at infinity in the direction of `v`. In a topological vector space, this is the filter
```
Comment (fpvandoorn) [inline Mathlib/Topology/Algebra/AsymptoticCone.lean]:
```suggestion
neighborhoods at infinity in directions near `v`. In a topological vector space, this is the filter
```

**Review by fpvandoorn — COMMENTED** [review]
LGTM

bors d+

Please merge after you've incorporated the suggested changes (or explained why you don't) and CI shows a green checkmark.
